US06432950B1
With the procedure of Example 1, the reaction of 4-fluorobenzylamine with 4-chloro-2-(isoxazol-5-yl)-5-chloro-6-methyl-thieno-[2,3-d]-pyrimidine yields 2-(isoxazol-5-yl)-4-(4-fluorobenzylamino)-5-chloro-6-methyl-thieno-[2,3-d]-pyrimidine.

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 4-chloro-2-(isoxazol-5-yl)-5-chloro-6-methyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=CC=NO1)SC(=C2Cl)C | C10H5Cl2N3OS
product | 2-(isoxazol-5-yl)-4-(4-fluorobenzylamino)-5-chloro-6-methyl-thieno-[2,3-d]-pyrimidine | O1N=CC=C1C=1N=C(C2=C(N1)SC(=C2Cl)C)NCC2=CC=C(C=C2)F | C17H12ClFN4OS
